US07985755B2
Step 4: 2-[4-(2,6-Difluorophenoxy)cyclohexyl methoxy]-6-fluorobenzonitrile (Method I)
4-(2,6-Difluorophenoxy)cyclohexylmethanol (100 mg; 0.4 mmol) and 2,6-difluorobenzonitrile were combined in 3 mL of dimethylformamide under nitrogen flow and chilled to 0° C. Potassium t-butoxide (56 mg; 1.2 mmol) was added in portions. Mixture warmed to room temperature. After 4 hours reaction was quenched with 3 mL of water and mixture was extracted with 3×8 mL of ethyl acetate. Combined organics were washed with 5×8 mL of water, once with brine and dried over MgSO4. Crude oil was purified via flash chromatography using 0-20% ethyl acetate in hexanes to give 95 mgs of title compound. (66% yield).

reactant | 4-(2,6-Difluorophenoxy)cyclohexylmethanol | 0.4 mmol, 100 mg | FC1=C(OC2CCC(CC2)CO)C(=CC=C1)F | C13H16F2O2
reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | Potassium t-butoxide | 1.2 mmol, 56 mg | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-[4-(2,6-Difluorophenoxy)cyclohexyl methoxy]-6-fluorobenzonitrile | 95 mgs, 66% yield | FC1=C(OC2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C(=CC=C1)F | C20H18F3NO2
